US04584293
1-[7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(5,6-dimethoxy-1,2,3,4-tetrahydronaphth-2-yl)-amino]-propane
The title compound is prepared analogously to Example 1 by reacting 1-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-3-chloropropane, triethylamine and 5,6-dimethoxy-2-methyl-amino-1,2,3,4-tetrahydronaphthalene. Mp: 216°-217° C. (decomp.).

reactant | 1-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-3-chloropropane | COC1=CC2=C(CC(N(CC2)CCCCl)=O)C=C1OC | C15H20ClNO3
reactant | 5,6-dimethoxy-2-methyl-amino-1,2,3,4-tetrahydronaphthalene | COC1=C2CCC(C(C2=CC=C1OC)N)C | C13H19NO2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
product | 1-[7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(5,6-dimethoxy-1,2,3,4-tetrahydronaphth-2-yl)-amino]-propane | COC1=CC2=C(CC(N(CC2)CCCN(C2CC3=CC=C(C(=C3CC2)OC)OC)C)=O)C=C1OC | C28H38N2O5
